US09062028B2
Step B. trans-Methyl 2-(3-chloro-2-methylphenyl)cyclopropanecarboxylate
To a solution of trimethylsulfoxonium iodide (0.157 g, 0.712 mmol) in 1 mL DMSO was added NaH (60% in mineral oil) (0.032 g, 0.807 mmol) portion-wise. The mixture was stirred at room temperature for 30 min, and then a solution (E)-methyl 3-(3-chloro-2-methylphenyl)acrylate (0.1 g, 0.475 mmol) in 1 mL DMSO was added in one portion. The reaction was stirred at room temperature for 16 h. The mixture was partitioned between EtOAc and water. The organic layer was washed with water and brine, dried (MgSO4) and concentrated. The crude material was purified by flash chromatography (0-50% ethyl acetate:hexanes) to afford the title compound (0.042 g, 39% yield) as a clear colorless oil. 1H NMR (500 MHz, CDCl3) δ 7.29-7.24 (d, J=7.8 Hz, 1H), 7.06 (t, J=7.8 Hz, 1H), 6.95 (d, J=7.7 Hz, 1H), 3.79-3.75 (m, 3H), 2.55 (ddd, J=9.1, 6.7, 4.5 Hz, 1H), 2.45 (s, 3H), 1.81 (dt, J=8.4, 4.9 Hz, 1H), 1.64-1.57 (m, 1H), 1.30 (ddd, J=8.4, 6.7, 4.4 Hz, 1H).

reactant | trimethylsulfoxonium iodide | 0.712 mmol, 0.157 g | [I-].C[S+](=O)(C)C
reactant | NaH | 0.807 mmol, 0.032 g | [H-].[Na+]
reactant | (E)-methyl 3-(3-chloro-2-methylphenyl)acrylate | 0.475 mmol, 0.1 g | ClC=1C(=C(C=CC1)/C=C/C(=O)OC)C | C11H11ClO2
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | trans-Methyl 2-(3-chloro-2-methylphenyl)cyclopropanecarboxylate | 0.042 g, 39% yield | ClC=1C(=C(C=CC1)[C@H]1[C@@H](C1)C(=O)OC)C | C12H13ClO2
